Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: "The police told me to come to ___

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
History was noted from Dr. ___ note from ___, and 
subsequent psychiatry CL notes in OMR, confirmed with patient 
and updated as relevant:

Briefly, patient is a ___ with past diagnosis of unspecified 
psychiatric disorder with psychiatric hospitalization in ___ 
and no known medical history who was BIBEMS after a friend 
called concerned for his safety.  Per review of records, the 
patient reportedly flew to ___ from ___ several 
days ago with the intention of staying with a friend, left the 
friend's home to purchase cold medicine, and never returned.  
When he was found by EMS he was noted to be altered and 
vomiting, thought to have intentionally ingested naproxen.

On interview, patient confirms that he did in fact travel from 
___ to ___ as he was being teased by colleagues at 
his place of work, employed as a ___ for a ___ 
affiliated with ___. He is vague yet concrete and unable to 
participate fully in interview, occasionally appearing 
distracted as though preoccupied by internal stimuli, requiring 
this interviewer to repeat her questions.  While initially 
stating that he did not feel threatened he later indicated that 
he had been followed and attacked by a group of "voices", one of 
which belonged to a man he noticed on the street.  He says that 
he went to the police to report that he was being "teased" and 
was, per him, told to fly to ___ to escape them.  He says 
that shortly after arriving in ___ he took "sleeping pills" 
with the intention of sleeping until they had ceased to pursue 
him; he denies suicidal ideation or past suicide attempts.  The 
patient states that this has been occurring for the last few 
months since he discontinued zyprexa, having been stabilized in 
___ at ___ following a similar situation.  He denies having 
experienced side effects on zyprexa though when pressed believes 
he gained weight.  He said that he discontinued the medication 
under the supervision of his then psychiatrist (does not recall 
her name) but noticed that these events began shortly after 
stopping the medication.  He endorses that zyprexa was 
previously beneficial in improving his "concentration", 
restoring his ability to "read and write", tasks with which he 
has difficulty now.
.
Notably, the patient believes he "was good- happy" until ___, 
shortly after arriving in the ___ to attend ___ in 
___.  He denies history of depressive or manic symptoms as 
well as anxiety though notes that he becomes very worried when 
"people stare at [him]", causing him to become frightened and 
"very angry", unsure of their intentions.  He initially endorses 
having harmed people but later denies physical assault.  He 
states that though his appetite has been normal he has not been 
able to sleep for the last four days due to fears that he was 
being followed (unable to clarify whether he is referring to his 
time before or in the hospital); he says that he currently feels 
safe given that the chip planted in his nose to feed information 
to these people has recently been disabled, they unaware of his 
location, though he does not know why these people would want to 
"see what [he] see[s]" or why they have targeted him.  The 
patient currently denies AVH but believes the voices belong to 
colleagues. 
.  
Hospital Course:
Was noted to be altered on arrival to the ED, was sedated and 
intubated.  Initially treated for infection thought more likely 
to be aspiration pneumonitis.  Seen by Psychiatry who 
recommended reinitiation of zyprexa 5 mg PO BID.  Seen by ___ for 
lower extremity weakness which was thought to be functional.
.  
ROS: All systems reviewed and were negative apart for mild 
headache and neck pain.

 
Past Medical History:
Past psychiatric history: 
Hospitalized at ___ for 3 weeks in 
___ for a similar presentation; per patient, spent 9 
additional months seen in outpatient clinic.  No current 
prescribers, does not recall the name of his last psychiatrist- 
___ to contact ___ signed and in chart.  Successful control of 
symptoms with zyprexa 10 mg PO qHS.  No exposure to additional 
psychotropics.  Denies that he attempted to kill himself despite 
previously being hospitalized following an overdose on Benadryl. 
 Denies history of violence toward others.  No access to guns.
.  
Past medical history: 
None
.
Medications: 
None
.
Allergies: NKMA

 
Social History:
___
Family History:
Family psychiatric history: 
Denies

 
Physical Exam:
VS: T 98.2 | BP 128 / 91 | HR 106 | RR 18 | SpO2 98% RA
.
General: Middle-aged male in NAD. Well-nourished, 
well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No visible rashes or lesions. 
.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation: 
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout. Coordination: 
Normal on finger to nose test. DTRs: 2+ and symmetrical 
throughout. Sensation: Intact to light touch throughout.  Gait: 
Steady. Normal stance and posture. No truncal ataxia.
.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Speech: normal rate and volume, minimal intonation
Language: fluent ___, no paraphasic errors
.
Mental Status:
Appearance: Disheveled, malodorous, overweight age-appearing 
___ man wearing hospital gown, fatigued-appearing
Behavior: Calm, cooperative, somewhat oddly related, good eye 
contact, occasionally 
Mood and Affect: "Good" / euthymic, flat
Thought Process: Somewhat vague and tangential, goal-oriented 
with regard to obtaining treatment
Thought Content: denies SI/HI, currently denies AVH but on 
occasion appears to be responding to internal stimuli, paranoid
Judgment and Insight: poor/poor

 
Pertinent Results:
___ 06:40AM BLOOD WBC-9.8 RBC-4.79 Hgb-13.5* Hct-41.0 
MCV-86 MCH-28.2 MCHC-32.9 RDW-14.3 RDWSD-43.8 Plt ___
___ 07:12PM BLOOD Glucose-98 UreaN-12 Creat-0.6 Na-143 
K-4.1 Cl-104 HCO3-24 AnGap-15
___ 05:42PM BLOOD Iron-55
___ 07:12PM BLOOD Mg-2.2
___ 01:15PM BLOOD Cholest-222*
___ 05:42PM BLOOD calTIBC-307 Ferritn-311 TRF-236
___ 01:15PM BLOOD %HbA1c-5.6 eAG-114
___ 01:15PM BLOOD Triglyc-501* HDL-29* CHOL/HD-7.7 
LDLmeas-130*
___ 05:42PM BLOOD TSH-2.9
___ 05:42PM BLOOD Free T4-1.3

MRI R shoulder: 
IMPRESSION: Findings compatible with Parsonage-Turner syndrome.  
Mild tendinosis of the distal supraspinatus tendon. 

CTA-Chest: 
IMPRESSION: No evidence of pulmonary embolism or acute aortic 
abnormality. Bibasilar atelectasis without definite parenchymal 
abnormality, although evaluation of pulmonary parenchyma is 
mildly limited due to respiratory motion. 

 
Brief Hospital Course:
1. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted for ongoing 
disorganization.

2. PSYCHIATRIC:
#) Schizophrenia
Patient was admitted complaining of ___ months worsening 
psychotic symptoms including paranoia and auditory 
hallucinations; he flew from his home in ___ to 
___ under the delusion that he was being persecuted by 
colleagues. The patient was amenable to reinitiation of zyprexa, 
which he had discontinued under the care of his previous 
psychiatrist, titrated to 10 mg PO qAM and 20 mg PO qHS with 
eventual improvement in psychosis and associated anxiety. He 
participated in group and individual therapies to challenge 
delusions and cultivate coping skills. The patient's friend, 
___, came in for a family meeting to help discuss discharge.  
Due to complicated situation with his work visa and belongings 
currently in ___, the patient will eventually return 
to ___ but first coordinate with his employer and obtain his 
belongings prior to this. Mr. ___ showed ability to have 
rational discussion around this plan, and he logically explained 
the steps he would take. His parents in ___ have arranged for 
him to see a physician upon his return to ___ for ongoing 
care. On day of discharge, Mr. ___ continued to report 
feeling well with improved anxiety and mental status notable for 
improving affective range, linear thought process, no perceptual 
disburbances or paranoia, and no suicidal or homicidal ideation. 
  
.
3. SUBSTANCE USE DISORDERS:
#) Patient denied active substance use including alcohol, 
tobacco, marijuana, or illicits.
.
4. MEDICAL
#) Hyperlipidemia
Cholesterol noted to be 222 with HDL 29 and LDH 130 on 
admission. Provided education regarding diet and exercise.

#Tachycardia: Patient showed persistant elevated sinus 
tachycardia from early on in his admission. He also had 
significant tachycardia while on the inpatient medicine floor 
which improved with 6L of IV fluids. Repeat EKG continued to 
showed sinus rhythm and CBC with a mild leukocytosis. A medicine 
consult was placed for further work-up. His leukocytosis 
resolved quickly without intervention and patient did not c/o of 
any specific symptoms concerning for infection. A CTA chest was 
performed which did not show any pulmonary embolus. He did have 
positive orthostatic tachycardia which responded to IV fluids. 
We continued to encourage PO fluids throughout remainder of 
admission.  

#Right shoulder weakness: Patient noted to have significant R 
shoulder weakness and limited range of motion on physical exam. 
Initial X-ray did not reveal in pathology but MRI right shoulder 
showed a pattern consistent with Parsonage-Turner Syndrome.  No 
other work-up was indicated at this time. No pain associated but 
counseled patient around NSAID use for pain and likely slow 
recovery of his function.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to and actively participated in the 
various groups and milieu therapy opportunities offered by the 
unit. He was noted to be visible in the milieu while socially 
isolative though his engagement improved with resolution of 
psychotic symptoms and attended multiple groups throughout the 
day.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient allowed treatment team to collaborate with multiple 
friends including ___ participated in a family 
meeting to help coordinate discharge planning. 
.
#) INTERVENTIONS
- Medications: Zyprexa 10 mg PO qAM and 20 mg PO qHS.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient will return to ___ where 
his parents have coordinated for him to see a physician there 
for ___
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Reality testing, cultivation of coping skills.
- Guardianships: N/A

INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting this medication 
zyprexa, and risks and benefits of possible alternatives, 
including not taking the medication, with this patient.  We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team. The patient appeared 
able to understand and consented to begin the medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to self and/or others based upon ongoing 
symptoms of psychosis following an intentional overdose on 
ibuprofen.  Their static factors noted at that time include 
history of suicide attempts, chronic mental illness, male 
gender; the modifiable risk factors, including medication 
non-compliance, acute psychosis, lack of outpatient treaters, 
and lack of social supports were addressed at that time through 
reinitiation of psychotropic medications, coordination of 
aftercare, and involvement of friends and local supports in 
hospitalization and treatment. Finally, the patient is being 
discharged with many protective risk factors, including improved 
reality testing, resolved psychosis, resolved suicidal ideation, 
plan for ___ in ___ while staying with supportive 
family. Overall, based on the totality of our assessment at this 
time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 1 mg PO Q6H:PRN anxiety 
RX *lorazepam [Ativan] 1 mg 1 tab by mouth BID PRN Disp #*10 
Tablet Refills:*0 
2.  OLANZapine 20 mg PO QHS 
RX *olanzapine 20 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0 
3.  OLANZapine 10 mg PO DAILY 
RX *olanzapine 10 mg 1 tablet(s) by mouth Daily Disp #*15 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia

 
Discharge Condition:
VS: Temp 97.4, PO 124 / 85, 107, RR 16, o2% 99   
Neurological:
*Station and gait: stable
*Tone and strength: Limited range of motion of right arm from 
shoulder. 
  
Mental Status Exam:
*Appearance: Casually groomed age-appearing male wearing 
hospital gown and pants, adequate grooming 
Behavior: calm, cooperative, improved expressivity/engagement, 
brief smile
*Mood and Affect: 'Good' / some improvement in range of affect
*Thought process: Linear, goal oriented / no LOA
*Thought Content: denies suicidal ideation; no concern for 
homicidal ideation on interview;  Denies perceptual disturbances
*Judgment and Insight: Improving / improving 

Cognition:
*Attention, *orientation, and executive function: Attends to 
interview; oriented to interview 
*Memory: Intact to recent and remote events
*Fund of knowledge: Average
*Speech: slowed rate, volume, and prosody
*Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
You were admitted to ___ following a medical hospitalization 
for overdosing on sleep medication and concerns that your 
thoughts were confused.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___